US07910592B2
Step C: 1-fluoro-4-iodo-2-isopropyl-5-methoxybenzene
A solution of 2-fluoro-1-isopropenyl-4-methoxybenzene (1.96 g, 11.81 mmol) in CH3OH (30 mL) was charged with hydrogen at 1 atm with catalytic amount of palladium on carbon. The mixture was stirred at room temperature for 1 h. The mixture was filtered through Celite. The filtrate was then added to a mixture of silver sulfate (3.68 g, 11.81 mmol) and iodine (3.00 g, 11.81 mmol) in CH3OH (10 mL). The mixture was stirred at room temperature for 3 h until the color of solution became light yellow. The mixture was filtered and the filtrate was concentrated. The title compound was obtained after flash chromatography using EtOAc:hexane 5:95 as the eluant. 1H NMR (CDCl3, 500 MHz) δ 7.61 (d, J=8.0 Hz, 1H), 6.56 (d, J=12.5 Hz, 1H), 3.90 (s, 3H), 3.18 (m, 1H), 1.28 (m, 6H).

reactant | 2-fluoro-1-isopropenyl-4-methoxybenzene | 11.81 mmol, 1.96 g | FC1=C(C=CC(=C1)OC)C(=C)C | C10H11FO
reactant | hydrogen | [H][H] | H2
reactant | iodine | 11.81 mmol, 3.00 g | II | I2
solvent | CH3OH | 30 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | CH3OH | 10 mL | CO | CH4O
catalyst | silver sulfate | 11.81 mmol, 3.68 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 1-fluoro-4-iodo-2-isopropyl-5-methoxybenzene | FC1=C(C=C(C(=C1)OC)I)C(C)C | C10H12FIO
